US07462600B2
Preparation 18: 1-[1,8]naphthyridin-4-yl-ethanone
1-[1,8]Naphthyridin-4-yl-ethanol (1.44 g, 8.26 mmol) was dissolved in EtOAc (250 mL), treated with IBX (7.8 g, 24.8 mmol) and heated to 80° C. for 6 h. The solution was cooled to RT and the solids removed by filtration. The product was purified (SGC using MeCN eluant) yielding the title compound (1.22 g). MS (ESI+) for m/z 173 (M+H)+. 1H NMR (CDCl3) δ 9.13 (d, 1H), 9.03 (dd, 1H), 8.85 (dd, 1H), 7.70 (d, 1H), 7.46 (dd, 1H), 2.64 (s, 3H).

reactant | 1-[1,8]Naphthyridin-4-yl-ethanol | 8.26 mmol, 1.44 g | N1=CC=C(C2=CC=CN=C12)C(C)O | C10H10N2O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | 1-[1,8]naphthyridin-4-yl-ethanone | 1.22 g | N1=CC=C(C2=CC=CN=C12)C(C)=O | C10H8N2O
